US04032525
A solution of 3 g. of 10-chloro-10,11-dihydro-2-methyl-8-methylthio-dibenz[ b,f]oxepin and 5.73 g. of 1-[2-(1-piperazinyl)-ethyl]-2-piperidone in 18 ml. of chloroform is heated at reflux for 20 hours. The solvent is removed in vacuo. The residue is partitioned between benzene and 10% aqueous sodium carbonate solution. The benzene solution is extracted with dilute hydrochloric acid. The acid-aqueous solution is made alkaline with sodium bicarbonate and extracted with benzene. The benzene extract is washed several times with water, dried, evaporated in vacuo, and there is obtained 1-[2-{4-[10,11-dihydro-2-methyl-8-methylthio-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-piperidone. The dihydrochloride is prepared in ethanol by the addition of an excess of alcoholic hydrogen chloride. By the addition of ether, there are obtained crystals having a melting point of 183°-185° C. (with decomposition). By re-dissolving the dihydrochloride in water, there is obtained the monohydrochloride having a melting point of 117°-120° C.

reactant | 10-chloro-10,11-dihydro-2-methyl-8-methylthio-dibenz[ b,f]oxepin | ClC1CC2=C(OC3=C1C=C(C=C3)SC)C=CC(=C2)C | C16H15ClOS
reactant | 1-[2-(1-piperazinyl)-ethyl]-2-piperidone | N1(CCNCC1)CCN1C(CCCC1)=O | C11H21N3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-{4-[10,11-dihydro-2-methyl-8-methylthio-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-piperidone | CC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CCN2C(CCCC2)=O)C=C(C=C3)SC)C=C1 | C27H35N3O2S
